### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal): tensorμ_braid_swap and tensor-product IsCommComonObj

### PR DESCRIPTION
**Pull request by pedroscortes**
## Summary

Two symmetric-monoidal coherence results:

1. `MonoidalCategory.tensorμ_braid_swap` (in `Monoidal/Braided/Basic.lean`) —
   canonical rearrangement `tensorμ A A Y Y` intertwines the braiding on `A ⊗ Y`
   with the pair of braidings on `A` and `Y`. Sibling of
   `CategoryTheory.MonObj.mul_braiding`.

2. Tensor-product instance for `IsCommComonObj` (in `Monoidal/CommComon_.lean`):
   if `A, B` carry commutative comonoid structures in a symmetric monoidal
   category, so does `A ⊗ B`. Fills a gap alongside the existing
   `instCommComonObjUnit` and `instIsCommComonObjOfCartesian`.

## Downstream consumer

The `IsCommComonObj` tensor-product instance is load-bearing for an external
library (markovcat, formalising Fritz–Klingler Markov categories).

### CODE REVIEW

**Comment by dagurtomas** [comment]
> In particular, we kindly remind contributors that we have [guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai) regarding the use of AI when making pull requests.

Did you use AI to generate this PR?

**Comment by pedroscortes** [comment]
> > In particular, we kindly remind contributors that we have [guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai) regarding the use of AI when making pull requests.
> 
> Did you use AI to generate this PR?

hi @dagurtomas! 
no, I haven't. sorry I haven't made it over to zulip yet to introduce myself.

quick context: I'm finishing my masters in cs at the Federal University of Espírito Santo, working on categorical foundations of causal inference. these two lemmas came up as a genuine gap while I was building markovcat (still private while my thesis is in progress), a Lean 4 library formalizing Fritz 2020 arkov categories and Fritz–Klingler 2023 d-separation. I expect a handful of similar coherence gaps will keep surfacing as I push further into the formalization, so I'll probably be sending a few more PRs of this flavor over the next year or two.

File: Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
+/-
+Copyright (c) 2026 Pedro Cortes. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Pedro Cortes
+-/
+module
+
+public import Mathlib.CategoryTheory.Monoidal.Braided.Basic
+public import Mathlib.CategoryTheory.Monoidal.CommComon_
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean]:
```suggestion
public import Mathlib.CategoryTheory.Monoidal.Braided.Basic
public import Mathlib.CategoryTheory.Monoidal.CommComon_
import Mathlib.Tactic.CategoryTheory.Coherence
```

File: Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean [hunk 2]
```diff
@@ -0,0 +1,71 @@
...
+The canonical rearrangement `tensorμ` intertwines the braiding on `A ⊗ Y`
+with the pair of braidings on `A` and `Y` in any symmetric monoidal
+category. This is the sibling of `CategoryTheory.MonObj.mul_braiding`
+(`Mathlib.CategoryTheory.Monoidal.Mon_`), and yields the tensor-product
+`IsCommComonObj` instance.
+
+Placed in its own file to avoid an instance-diamond issue in `Braided/Basic.lean`,
+where the ambient `[BraidedCategory C]` variable clashes with the
+`[SymmetricCategory C]`-derived `BraidedCategory` instance, confusing
+`rw [SymmetricCategory.symmetry]` motive extraction on Lean v4.30.0-rc2.
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean]: There is no diamond, `SymmetricCategory` extends `BraidedCategory`. You just need to make sure not to have both assumptions `[BraidedCategory C]` and `[SymmetricCategory C]` around, so just put it in its own section with only a 
`[SymmetricCategory C]` assumption.

File: Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+
+open MonoidalCategory BraidedCategory
+
+variable {C : Type u} [Category.{v} C] [MonoidalCategory C] [SymmetricCategory C]
+
+/-- **Symmetric-monoidal tensor-braid swap coherence.**
+The canonical rearrangement `tensorμ` intertwines the braiding on `A ⊗ Y`
+with the pair of braidings on `A` and `Y`. Both sides implement the
+permutation `(a₁, a₂, y₁, y₂) ↦ (a₂, y₂, a₁, y₁)`. Sibling of
+`MonObj.mul_braiding` (`Mathlib.CategoryTheory.Monoidal.Mon_`). -/
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean]: This docstring is unnecessary

File: Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean [hunk 4]
```diff
@@ -0,0 +1,71 @@
...
+    BraidedCategory.braiding_tensor_right_hom,
+    BraidedCategory.braiding_tensor_left_hom, comp_whiskerRight,
+    whisker_assoc, whiskerLeft_comp, pentagon_assoc,
+    pentagon_inv_hom_hom_hom_inv_assoc, Iso.inv_hom_id_assoc,
+    whiskerLeft_hom_inv_assoc]
+  slice_lhs 3 4 => rw [← whiskerLeft_comp, ← comp_whiskerRight,
+                       SymmetricCategory.symmetry]
+  simp only [id_whiskerRight, whiskerLeft_id, Category.id_comp, Category.assoc,
+             tensorHom_def, tensor_whiskerLeft, whiskerRight_tensor]
+  monoidal
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean]:
```suggestion
  -- simp? [tensorμ] says: 
  simp only [tensorμ, braiding_tensor_right_hom, braiding_tensor_left_hom, comp_whiskerRight,
    whisker_assoc, Category.assoc, whiskerLeft_comp, pentagon_assoc,
    pentagon_inv_hom_hom_hom_inv_assoc, Iso.inv_hom_id_assoc, whiskerLeft_hom_inv_assoc]
  slice_lhs 3 4 => rw [← whiskerLeft_comp, ← comp_whiskerRight, SymmetricCategory.symmetry]
  simp [tensorHom_def]
```

File: Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean [hunk 5]
```diff
@@ -0,0 +1,71 @@
...
+commutative comonoid object. The proof reduces the commutativity
+equation for `Δ[A ⊗ B]` to `tensorμ_braid_swap` plus the two pointwise
+commutativity hypotheses `IsCommComonObj.comul_comm A`, `.comul_comm B`. -/
+instance (A B : C) [ComonObj A] [ComonObj B]
+    [IsCommComonObj A] [IsCommComonObj B] : IsCommComonObj (A ⊗ B) where
+  comul_comm := by
+    rw [Comon.tensorObj_comul, Category.assoc,
+        MonoidalCategory.tensorμ_braid_swap,
+        ← Category.assoc, tensorHom_comp_tensorHom,
+        IsCommComonObj.comul_comm A, IsCommComonObj.comul_comm B]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean]:
```suggestion
    rw [Comon.tensorObj_comul, Category.assoc, MonoidalCategory.tensorμ_braid_swap]
    simp
```

File: Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean [hunk 6]
```diff
@@ -0,0 +1,71 @@
...
+  simp only [id_whiskerRight, whiskerLeft_id, Category.id_comp, Category.assoc,
+             tensorHom_def, tensor_whiskerLeft, whiskerRight_tensor]
+  monoidal
+
+open scoped ComonObj
+
+/-- The tensor product of two commutative comonoid objects is again a
+commutative comonoid object. The proof reduces the commutativity
+equation for `Δ[A ⊗ B]` to `tensorμ_braid_swap` plus the two pointwise
+commutativity hypotheses `IsCommComonObj.comul_comm A`, `.comul_comm B`. -/
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Symmetric/TensorBraidSwap.lean]: This docstring is unnecessary

**Review by dagurtomas — COMMENTED** [review]
There is no need for a new file, you can just put these two declarations in `Monoidal/Braided/Basic.lean` and `Monoidal/CommComon_.lean`. 

This looks very AI-generated (the wordiness of the docstrings and the heavy use of markdown in both docstrings and PR description). I'll give you the benefit of the doubt this time, but I ask you to please be honest with disclosing AI use.

**Comment by pedroscortes** [comment]
Thanks for the review! Applied all the suggestions:
- moved the two declarations into `Braided/Basic.lean` and `CommComon_.lean`, each in its own `[SymmetricCategory C]` section;
- dropped both docstrings;
- adopted your suggested proofs verbatim;
- simplified the PR description.

The new file and the `Symmetric/` subdirectory are gone.

File: Mathlib/CategoryTheory/Monoidal/Braided/Basic.lean [hunk 7]
```diff
@@ -777,6 +777,22 @@ lemma tensorμ_comp_μ_tensorHom_μ_comp_μ (F : C ⥤ D) [F.LaxBraided] (W X Y
...
+
+@[reassoc]
+theorem tensorμ_braid_swap (A Y : C) :
+    tensorμ A A Y Y ≫ (β_ (A ⊗ Y) (A ⊗ Y)).hom =
+      ((β_ A A).hom ⊗ₘ (β_ Y Y).hom) ≫ tensorμ A A Y Y := by
+  simp only [tensorμ, braiding_tensor_right_hom, braiding_tensor_left_hom, comp_whiskerRight,
+    whisker_assoc, Category.assoc, whiskerLeft_comp, pentagon_assoc,
+    pentagon_inv_hom_hom_hom_inv_assoc, Iso.inv_hom_id_assoc, whiskerLeft_hom_inv_assoc]
+  slice_lhs 3 4 => rw [← whiskerLeft_comp, ← comp_whiskerRight, SymmetricCategory.symmetry]
+  simp [tensorHom_def]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Braided/Basic.lean]:
```suggestion
  simp [tensorμ, SymmetricCategory.braiding_swap_eq_inv_braiding Y A, tensorHom_def]
```

An explanation of what is going on here: your slice_lhs part is basically trying to force `A ◁ (β_ A Y).hom ▷ Y ≫ A ◁ (β_ Y A).hom ▷ Y` to cancel.
Lean know how to cancel `A ◁ (β_ A Y).hom ▷ Y ≫ A ◁ (β_ A Y).inv ▷ Y` within `simp` already, and so all you need is to do is to do that rewrite via `SymmetricCategory.braiding_swap_eq_inv_braiding`, and things just fall in place within `simp`.

File: Mathlib/CategoryTheory/Monoidal/Braided/Basic.lean [hunk 8]
```diff
@@ -777,6 +777,22 @@ lemma tensorμ_comp_μ_tensorHom_μ_comp_μ (F : C ⥤ D) [F.LaxBraided] (W X Y
...
 end Tensor
 
+section Symmetric
+
+variable {C : Type u₁} [Category.{v₁} C] [MonoidalCategory C] [SymmetricCategory C]
+
+@[reassoc]
+theorem tensorμ_braid_swap (A Y : C) :
+    tensorμ A A Y Y ≫ (β_ (A ⊗ Y) (A ⊗ Y)).hom =
+      ((β_ A A).hom ⊗ₘ (β_ Y Y).hom) ≫ tensorμ A A Y Y := by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Braided/Basic.lean]: For a single declaration like this, I am not sure how much a `section` followed by a `variable` block is relevant, you can probably go for
```
@[reassoc]
theorem tensorμ_braid_swap
    {C : Type*} [Category* C] [MonoidalCategory C] [SymmetricCategory C]
    (A Y : C) :
    tensorμ A A Y Y ≫ (β_ (A ⊗ Y) (A ⊗ Y)).hom =
      ((β_ A A).hom ⊗ₘ (β_ Y Y).hom) ≫ tensorμ A A Y Y := by
```

More importantly though, currently this declaration is in the `MonoidalCategory` namespace, while it should be in the `SymmetricCategory` one, so you should probably move around the declaration in the file to a place where it ends up in the correct namespace.

File: Mathlib/CategoryTheory/Monoidal/CommComon_.lean [hunk 9]
```diff
@@ -98,4 +98,16 @@ end
...
+
+variable {C : Type u₁} [Category.{v₁} C] [MonoidalCategory.{v₁} C] [SymmetricCategory C]
+
+instance (A B : C) [ComonObj A] [ComonObj B]
+    [IsCommComonObj A] [IsCommComonObj B] : IsCommComonObj (A ⊗ B) where
+  comul_comm := by
+    rw [Comon.tensorObj_comul, Category.assoc, MonoidalCategory.tensorμ_braid_swap]
+    simp
+
+end Symmetric
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/CommComon_.lean]: Same here, `section`, `variable` like this is overkill for a single declaration.

```suggestion
instance {C : Type*} [Category* C] [MonoidalCategory C] [SymmetricCategory C]
    (A B : C) [ComonObj A] [ComonObj B]
    [IsCommComonObj A] [IsCommComonObj B] : IsCommComonObj (A ⊗ B) where
  comul_comm := by
    rw [Comon.tensorObj_comul, Category.assoc, MonoidalCategory.tensorμ_braid_swap]
    simp
```

**Comment by pedroscortes** [comment]
Thanks @robin-carlier! Applied all three:
- moved to `SymmetricCategory.tensorμ_braid_swap`;
- inlined the typeclass assumptions on both the theorem and the instance (no more `section`/`variable`);
- adopted your one-line proof via `braiding_swap_eq_inv_braiding`.

**Comment by robin-carlier** [comment]
The conventions here is that whenever you’re done adressing comments, you should comment `-awaiting-author` to have a bot remove the label (which implicitly puts the PR back in the review queue), and also please make sure that you resolve all Github conversations whenever they’re addressed, it lets us know what is remaining. I’ll let you do this here before giving an other look.

(Also, since you mention formalizing Markov categories, you should coordinate with others like @gaetanserre who are also formalizing things around this topic)

**Comment by pedroscortes** [comment]
-awaiting-author

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/CategoryTheory/Monoidal/Braided/Basic.lean [hunk 10]
```diff
@@ -779,6 +779,14 @@ end Tensor
 
 end MonoidalCategory
 
+@[reassoc]
+theorem SymmetricCategory.tensorμ_braid_swap
+    {C : Type*} [Category* C] [MonoidalCategory C] [SymmetricCategory C]
+    (A Y : C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided/Basic.lean]:
```suggestion
    (X Y : C) :
```

**Comment by pedroscortes** [comment]
-awaiting-author

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
